US04151303
To a mixture of 11.50 g. (63 mMol) o-chlorocinnamic acid, 200 ml. anhydrous tetrahydrofuran and 6.38 g. (63 mMol) anhydrous triethylamine, there are added dropwise at -15° C., 7.50 g. (69 mMol) ethyl chloroformate. The reaction mixture is then stirred for 15 minutes at -15° C. Subsequently, a solution of 15.80 g. (63 mMol) ethyl 2-[4-(2-aminoethyl)phenoxy]-2-methylpropionate in 50 ml. anhydrous tetrahydrofuran is added dropwise thereto and the reaction mixture is stirred for a further 2 hours at -10° C. and then left to stand for a day at ambient temperature. Thereafter, the tetrahydrofuran is distilled off in a vacuum and the residue is taken up in methylene chloride. The methylene chloride phase is extracted with 0.5 N aqueous sodium hydroxide solution, filtered, dried over anhydrous sodium sulphate and evaporated. After recrystallization of the residue from a mixture of ligroin and acetone (30:5 v/v), there is obtained, in a yield of 65% of theory, ethyl 2-{4-[2-(2-chlorocinnamoylamino)-ethyl]-phenoxy}-2-methylpropionate, which melts at 76° C.

reactant | o-chlorocinnamic acid | 63 mMol | ClC1=C(C=CC(=O)O)C=CC=C1 | C9H7ClO2
reactant | triethylamine | 63 mMol | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 69 mMol | ClC(=O)OCC | C3H5ClO2
reactant | ethyl 2-[4-(2-aminoethyl)phenoxy]-2-methylpropionate | 63 mMol | NCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H21NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 2-{4-[2-(2-chlorocinnamoylamino)-ethyl]-phenoxy}-2-methylpropionate | yield of 65% | ClC1=C(C=CC(=O)NCCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=CC=C1 | C23H26ClNO4
